US06559118B1
1,2,4-trimethyl-3-cyclohexene-1-carboxaldehyde was prepared by a Diels-Alder reaction between 2-methyl1,3-pentadiene and methacrolein (prepared by Mannich-chemistry). To this aldehyde (15 g, 0.1M) in 100 ml diethyl ether, cooled in an ice bath, was added via a syringe isopropylmagnesium bromide (60 ml, 2.0M solution in diethyl ether). The reaction mixture was stirred for 2 hours and allowed to warm to ambient temperature then poured slowly into a dilute aqueous solution of ammonium chloride. The organic phase was separated and the aqueous phase extracted with more diethyl ether (50 ml). The organic extracts were combined, washed with water, dried with magnesium sulphate, filtered and solvent removed via rotary evaporation (rotavap). The crude was analysed by GC then GCMS. 4 product peaks of relative peak area (hereinafter to as “rpa”) 77.6%, 8.5%, 5.2% and 4.1% were shown to have MWs 154, 154, 196, 196, respectively. Hence the 2 major products were not the required isopropyl additions, but were comparable to the starting aldehyde being reduced to the corresponding alcohol, having the following structure:

reactant | 2-methyl1,3-pentadiene | CC(=C)C=CC | C6H10
reactant | methacrolein | O=CC(C)=C | C4H6O
reactant | isopropylmagnesium bromide | 2.0M, 60 ml | C(C)(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1,2,4-trimethyl-3-cyclohexene-1-carboxaldehyde | CC1(C(C=C(CC1)C)C)C=O | C10H16O
